US07163951B2
A mixture of 3-chloro-5-[3-fluoro-2-(2-methyl-2H-tetrazol-5-yl)phenyl]pyridine (2.90 g, 9.98 mmol) and 3-chloroperoxybenzoic acid (2.238 g, 12.97 mmol) in 40 mL CH2Cl2 was stirred at room temperature overnight. Additional 3-chloroperoxybenzoic acid (861 mg, 4.99 mmol) was added in the morning to drive the reaction to completion. The solution was washed with 0.5 N NaOH and brine, dried over Na2SO4, filtered and concentrated under vacuum to provide 3-chloro-5-[3-fluoro-2-(2-methyl-2H-tetrazol-5-yl)phenyl]pyridine 1-oxide that gave proton NMR spectra consistent with theory and a mass ion (ES+) of 306.13 for M+H+.

reactant | 3-chloro-5-[3-fluoro-2-(2-methyl-2H-tetrazol-5-yl)phenyl]pyridine | 9.98 mmol, 2.90 g | ClC=1C=NC=C(C1)C1=C(C(=CC=C1)F)C=1N=NN(N1)C | C13H9ClFN5
reactant | 3-chloroperoxybenzoic acid | 12.97 mmol, 2.238 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | 3-chloroperoxybenzoic acid | 4.99 mmol, 861 mg | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | 3-chloro-5-[3-fluoro-2-(2-methyl-2H-tetrazol-5-yl)phenyl]pyridine 1-oxide | ClC=1C=[N+](C=C(C1)C1=C(C(=CC=C1)F)C=1N=NN(N1)C)[O-] | C13H9ClFN5O
